US06627630B1
Production of 6-[2-[2-[4-(Diphenylmethyl)-1-piperazinyl]ethoxy]ethoxy]-7-isopropyl[1,2,4]triazolo[1,5-b]pyridazine
160 mg of 60% sodium hydride in oil was suspended in 20 ml of tetrahydrofuran; 1.20 g of [2-[4-(diphenylmethyl)-1-piperazinyl]ethoxy]ethanol was added, followed by heating and refluxing for 1 hour. After cooling, 610 mg of 6-chloro-7-isopropyl[1,2,4]triazolo[1,5-b]pyridazine was added, followed by heating and refluxing for 1 hour. After cooling, ice water was added, followed by extraction with ethyl acetate; the extract was washed with saturated saline, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol (10:1). The desired fraction was collected; the crystal precipitated was collected by filtration, washed with ethyl ether and dried to yield 790 mg of the title compound.

reactant | sodium hydride | 160 mg | [H-].[Na+]
reactant | [2-[4-(diphenylmethyl)-1-piperazinyl]ethoxy]ethanol | 1.20 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCOC(C)O)C1=CC=CC=C1 | C21H28N2O2
reactant | 6-chloro-7-isopropyl[1,2,4]triazolo[1,5-b]pyridazine | 610 mg | ClC=1C(=CC=2N(N1)N=CN2)C(C)C | C8H9ClN4
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6-[2-[2-[4-(Diphenylmethyl)-1-piperazinyl]ethoxy]ethoxy]-7-isopropyl[1,2,4]triazolo[1,5-b]pyridazine | 790 mg | C1(=CC=CC=C1)C(N1CCN(CC1)CCOCCOC=1C(=CC=2N(N1)N=CN2)C(C)C)C2=CC=CC=C2 | C29H36N6O2
